US05763450
146 mg of 5-[3-(3,5-bis-methoxymethoxy-naphthalen-2-ylethynyl)-4,5-dimethoxybenzyl]-pyrimidin-2,4-diamine (Example 12ap)) in 2.5 ml of THF, 2.5 ml of water and 2.5 ml of 6N hydrochloric acid are held at 50° for 7.5 hrs. The mixture is concentrated and the residue is chromatographed on silica gel with methylene chloride/methanol 9:1. 59 mg of 6-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-naphthalene-1,7-diol are isolated as a yellowish solid. Yield: 48%. Mass spectrum: peaks inter alia at 443 (M++H, 100%).

reactant | 5-[3-(3,5-bis-methoxymethoxy-naphthalen-2-ylethynyl)-4,5-dimethoxybenzyl]-pyrimidin-2,4-diamine | 146 mg | COCOC=1C(=CC2=CC=CC(=C2C1)OCOC)C#CC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)OC | C29H30N4O6
reactant | water | 2.5 ml | O | H2O
reactant | hydrochloric acid | 6N, 2.5 ml | Cl | ClH
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 6-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-naphthalene-1,7-diol | 59 mg, Yield: 48% | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)C#CC=1C=C2C=CC=C(C2=CC1O)O)OC)OC | C25H22N4O4
